US07465730B2
To a solution of acetonyl acetone (1.95 mL, 16.5 mmol) in acetic acid (100 mL) was added 4-ethoxy-2-nitroaniline (3.0 g, 16.5 mmol) and the red mixture heated at reflux overnight. After cooling to rt, the now black solution was poured into water and extracted with EtOAc (2×200mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated in vacuo to an oil. Purification by flash chromatography (10% EtOAc/hexanes) gave 2,5-dimethyl-1-(4-ethoxy-2-nitrophenyl)pyrrole as a red oil: 1H NMR (CDCl3, 500 MHz) δ 7.46 (d, 1H), 7.27 (t, 1H), 7.19 (dd, 1H), 5.91 (s, 2H), 4.15 (q, 1H), 1.96 (s, 6H), 1.50 (t, 3H); MS (ESI) 261 (M+H)+.

reactant | acetonyl acetone | 16.5 mmol, 1.95 mL | C(C(=O)C)CC(C)=O | C6H10O2
reactant | 4-ethoxy-2-nitroaniline | 16.5 mmol, 3.0 g | C(C)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H10N2O3
reactant | water | O | H2O
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 2,5-dimethyl-1-(4-ethoxy-2-nitrophenyl)pyrrole | CC=1N(C(=CC1)C)C1=C(C=C(C=C1)OCC)[N+](=O)[O-] | C14H16N2O3
